US04115565
6,7-Dimethoxy-2-(4-thiomorpholinyl)-4-quinazolinamine
A mixture of 8.00 g of 2-chloro-6,7-dimethoxy-4-quinazolinamine and 6.90 g. of thiomorpholine in 80 ml of chlorobenzene was refluxed for 18 hrs. The reaction mixture was cooled to room temperature, and the precipitate was collected. There was deposited 8.00 g (70.2%) of white powder, mp 267°-269°, dec. The product was recrystallized from methanol to give an analytical sample, mp 270°-271°, dec.

reactant | 2-chloro-6,7-dimethoxy-4-quinazolinamine | 8.00 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 6,7-Dimethoxy-2-(4-thiomorpholinyl)-4-quinazolinamine | COC=1C=C2C(=NC(=NC2=CC1OC)N1CCSCC1)N | C14H18N4O2S
